US08293909B2
Step 2: Preparation of 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide.
Pd(Ph3P)4 (4.4 mg, 3.8 μmol) was added to a stirring solution of 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide (20 mg, 0.038 mmol), trimethylboroxine (11 μL, 0.076 mmol), and Na2CO3 (12.0 mg, 0.11 mmol) in DMF (1.4 mL) and Water (0.14 mL) at room temperature. It was subjected to microwave irradiation: 180° C. for 30 min. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the expected product 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide (15 mg, 0.032 mmol, 85% yield) by LCMS. LC-MS retention time: 1.87 min; m/z (MH+): 465. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide | 0.038 mmol, 20 mg | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)NC(C)(C)C1=CC=CC=C1)C=CC2)C2=CC=C(C=C2)F | C29H22BrFN2O2
reactant | trimethylboroxine | 0.076 mmol, 11 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | Na2CO3 | 0.11 mmol, 12.0 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1.4 mL | CN(C)C=O | C3H7NO
solvent | Water | 0.14 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 3.8 μmol, 4.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide | 0.032 mmol, 15 mg, 85% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)NC(C)(C)C3=CC=CC=C3)C=CC2)O1)C | C30H25FN2O2
